US07687502B2
1,2-Difluoro-3-iodobenzene (1.70 g; 7.08 mmol), 2.17 g (21.2 mmol) of sodium methanesulfonate and 4.03 g (21.2 mmol) of copper iodide were heated with stirring at 111° C. for 20 hours in 50 ml of N,N-dimethylacetamide. The reaction solution was filtered, chloroform was added to the filtrate and the mixture was washed with a saturated aqueous solution of sodium hydrogen carbonate. The organic layer was dried and concentrated and the resulting residue was purified by a silica gel column chromatography (hexane:ethyl acetate=2:1) to give 987 mg (yield: 72%) of 1,2-difluoro-3-methanesulfonylbenzene as a colorless transparent solution.

reactant | 1,2-Difluoro-3-iodobenzene | 7.08 mmol, 1.70 g | FC1=C(C(=CC=C1)I)F | C6H3F2I
reactant | sodium methanesulfonate | 21.2 mmol, 2.17 g | CS(=O)(=O)[O-].[Na+]
solvent | N,N-dimethylacetamide | 50 ml | CN(C(C)=O)C | C4H9NO
catalyst | copper iodide | 21.2 mmol, 4.03 g | [Cu](I)I
product | 1,2-difluoro-3-methanesulfonylbenzene | 987 mg, yield: 72% | FC1=C(C(=CC=C1)S(=O)(=O)C)F | C7H6F2O2S
